********************************************************************************************************
*
* Nexperia PMDPB30XNA
* Polarity N - Channel
* Ratings 20V/26.0mOhm/4A
* Revision N#: 1.0
* Created on 2024-01-12 14:37:48
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT PMDPB30XNA D G S

* Package impedance
LD D 5 200p
RLD2 D 5 52.28m
RLD1 5 4 200.0u
LG G 1 881.7p
RLG G 1 2.216
LS S 8 639.8p
RLS2 S 8 1.608
RLS1 8 7 3.732m

* Drain,gate and source resistances
RD 3 4 15.10m TC= 8.954m,1.000n
RG 1 2 8.300
RS 6 7 1.000u

* Body Diode
RBD 9 4 29.00m TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 2.906G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 39.83G
CGS 2 6 560.0p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-1.45,820.0)
+ (0.01,352.8)
+ (0.1,320.8)
+ (0.2,290.8)
+ (0.5,191.3)
+ (1.0,123.2)
+ (2.0,91.51)
+ (3.0,78.09)
+ (4.0,70.23)
+ (5.0,65.03)
+ (6.0,61.26)
+ (8.0,56.06)
+ (10.0,52.56)
+ (12.0,50.0)
+ (15.0,47.2)
+ (20.0,44.02)

.MODEL MINT NMOS Vto= 977.7m Kp= 57.90 Nfs= 316.4G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 1.538K

.MODEL D_DBD D Bv= 28.00 Ibv= 250.0u Rs= 1.000u Is= 7.034p
+ N= 1.000 M= 460.0m VJ= 200.0m Fc= 500.0m Cjo= 48.0p Tt= 18.50n

.ENDS PMDPB30XNA

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************